US06258824B1
26B. 6-[(6-Chloro-pyridin-3-yl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-4-(3-ethoxy-phenyl)-1H-quinolin-2-one
Following the same procedure as described in example 1F, (6-chloro-pyridin-3-yl)-[4-(3-ethoxy-phenyl)-2-methoxy-quinolin-6-yl]-(3-methyl-3H-imidazol-4-yl)-methanol (1.458 g, 2.92 mmol) was treated with HCl in aqueous THF to yield the title compound (1.21 g, 85% yield).

reactant | (6-chloro-pyridin-3-yl)-[4-(3-ethoxy-phenyl)-2-methoxy-quinolin-6-yl]-(3-methyl-3H-imidazol-4-yl)-methanol | 2.92 mmol, 1.458 g | ClC1=CC=C(C=N1)C(O)(C=1N(C=NC1)C)C=1C=C2C(=CC(=NC2=CC1)OC)C1=CC(=CC=C1)OCC | C28H25ClN4O3
reactant | HCl | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | 6-[(6-Chloro-pyridin-3-yl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-4-(3-ethoxy-phenyl)-1H-quinolin-2-one | 1.21 g, 85% yield | ClC1=CC=C(C=N1)C(C=1C=C2C(=CC(NC2=CC1)=O)C1=CC(=CC=C1)OCC)(C=1N(C=NC1)C)O | C27H23ClN4O3
